US08492582B2
Potassium carbonate (0.049 g) was added to a solution mixture of tert-butyl 2-(2-acetoxy-5-bromobenzamido)-4-phenylbenzoate (0.060 g) in methanol (1 mL) and dioxane (1 mL), followed by stirring at room temperature for 1 hour. A 10% aqueous solution of citric acid and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Trifluoroacetic acid (5 mL) was added to the obtained residue, followed by stirring at room temperature for 2 hours. The solvent was evaporated under reduced pressure, and methanol was added to the obtained residue. The solid substance was collected by filtration to obtain 0.034 g of 2-(5-bromo-2-hydroxybenzamido)-4-phenylbenzoic acid as a white solid.

reactant | Potassium carbonate | 0.049 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 2-(2-acetoxy-5-bromobenzamido)-4-phenylbenzoate | 0.060 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)Br | C26H24BrNO5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1 mL | CO | CH4O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-(5-bromo-2-hydroxybenzamido)-4-phenylbenzoic acid | 0.034 g | BrC=1C=CC(=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C1)O | C20H14BrNO4
